US06320085B1
11.) 5-[(2-butynyloxy)methyl]-1,3-benzodioxol
To a flask equipped with magnetic stirred condenser and drying tube filled with calcium chloride, 3.0 g, (13.95 mmol) of piperonyl bromide, 2.0 g (27.9 mmol) of 2-butyn-1-ol and 50 ml of dichloroethane are placed. After the addition of zinc(II) oxide (1.1 g, 13.5 mmol) the suspension is stirred at room temperature for 1 hour. The reaction is accompanied by a characteristic chance of colour. The mixture is then filtered, the filtrate is evaporated. The residual oil is dissolved in 50 ml of ether, washed within 2×10 ml of water, dried and evaporated. Yield 2.3 g (11.2 mmol, 80.7%), GC 82%. IR(CHCl3, cm−1) υ: 2997, 2946, 2921, 2888, 2376, 1609, 1503, 1491, 1445, 1251, 1099, 1070, 1042, 937, 865, 810; 1H-NMR (400 MHz, CDCl3) δ: 1.87 (3H, t, J=2.3 Hz, Me), 4.10 (2H, q, J=2.3 Hz, O—CH2—C≡), 4.47, (2H, s, O—CH2—Ar), 5.94 (2H, s, O—CH2—O), 6.76 (1H, d, J=8 Hz, H-7), 6.81 (1H, dd, J=8.15 Hz, H-6), 6.86 (1H, J=1.5 Hz, H-4); 13C-NMR (100 MHz, CDCl3) δ: 3.52 (Me), 57.29 (O—CH2—C≡), 71.15 (O—CH2—Ar), 82.54 (CH3—C≡), 100.9 C-2, 107.95, 108.71 (C-4, 7), 121.66 (C-6), 131.39, (C-5), 147.15, 147.66 (C3a, C-7a);

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | piperonyl bromide | 13.95 mmol | C(C1=CC=2OCOC2C=C1)Br | C8H7BrO2
reactant | 2-butyn-1-ol | 27.9 mmol, 2.0 g | C(C#CC)O | C4H6O
catalyst | zinc(II) oxide | 13.5 mmol, 1.1 g | [O-2].[Zn+2]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 5-[(2-butynyloxy)methyl]-1,3-benzodioxol | C(C#CC)OCC1=CC2=C(OCO2)C=C1 | C12H12O3
